US20010036946A1
(phenylmethyl)-β,β-bis-(ethoxycarbonyl)-4-(I,1-dimethylethyl)-benzenebutanoate
Prepared analogously to Example A62 from diethyl[(phenylmethoxycarbonyl)methyl]-malonoate and 4-(1,1-dimethylethyl)-benzylbromide in the presence of sodium hydride in a yield of 53% of theory. Colourless oil of Rf=0.21 (eluant: dichloromethane/petroleum ether 2/1 v/v). IR(KBr): 1738 cm−1 (C═O)

reactant | diethyl[(phenylmethoxycarbonyl)methyl]-malonoate | C(C)OC(C(C(=O)OCC)CC(=O)OCC1=CC=CC=C1)=O | C16H20O6
reactant | 4-(1,1-dimethylethyl)-benzylbromide | CC(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | sodium hydride | [H-].[Na+]
product | (phenylmethyl)-β,β-bis-(ethoxycarbonyl)-4-(I,1-dimethylethyl)-benzenebutanoate | yield of 53% | C1(=CC=CC=C1)COC(CC(CC1=CC=C(C=C1)C(C)(C)C)(C(=O)OCC)C(=O)OCC)=O | C27H34O6
